US04287341
Treatment of methyl-4-methoxyanthranilate with sulfuryl chloride as described above afforded methyl-4-methoxy-5-chloroanthranilate, M.P., 197°-200° C. in 90% yield.

reactant | methyl-4-methoxyanthranilate | COC(C=1C(N)=CC(=CC1)OC)=O | C9H11NO3
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
product | methyl-4-methoxy-5-chloroanthranilate | 90% yield | COC(C=1C(N)=CC(=C(C1)Cl)OC)=O | C9H10ClNO3
